US07074809B2
A solution of 3-cyano-5-methoxy-benzoic acid methyl ester (3.4 g, 18.7 mmol) in THF (45 mL) was treated with 0.5 N lithium hydroxide (45 mL, 22.4 mmol). The reaction was stirred at 75° C. for 2 h and then the solvent was removed in vacuo. The residue was dissolved in a small amount of water and then acidified (pH 2) by the addition of 1 N HCl. Ethyl acetate was used to extract the precipitate, which was then washed with brine and dried over anhydrous sodium sulfate. After removal of solvent in vacuo, 2.5 g (77%) of 3-cyano-5-methoxybenzoic acid was isolated as a white solid. 1H NMR (DMSO), δ(ppm): 7.86 (s, 1H), 7.71 (m, 2H), 3.87 (s, 3H).

reactant | 3-cyano-5-methoxy-benzoic acid methyl ester | 18.7 mmol, 3.4 g | COC(C1=CC(=CC(=C1)OC)C#N)=O | C10H9NO3
reactant | lithium hydroxide | 22.4 mmol, 0.5 N, 45 mL | [OH-].[Li+]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 3-cyano-5-methoxybenzoic acid | 2.5 g, 77% | C(#N)C=1C=C(C(=O)O)C=C(C1)OC | C9H7NO3
